US07820823B2
N-[(5S)-3-{3-Fluoro-4-[4-(2-piperazin-1-yl-ethyl)-piperazin-1-yl]-phenyl}-2-oxo-oxazolidin-5ylmethyl]-acetamide
A solution of 200 mg of 4-[2-(4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazine-1-yl)ethyl]piperazine-1-carboxylic acid tert butyl ester (0.36 mmol) in 2 ml dichloromethane and 2 ml trifluoracetic acid was stirred for 10 min. The solvents were evaporated, the residue was digested in ether and the solid filtered. The solid was dissolved in water and neutralized with a saturated solution of sodium bicarbonate. The water was evaporated and the product dried as a mixture with the salts.

reactant | 4-[2-(4-{4-[(5S)-5-(acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazine-1-yl)ethyl]piperazine-1-carboxylic acid tert butyl ester | 0.36 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C27H41FN6O5
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | trifluoracetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-[(5S)-3-{3-Fluoro-4-[4-(2-piperazin-1-yl-ethyl)-piperazin-1-yl]-phenyl}-2-oxo-oxazolidin-5ylmethyl]-acetamide | FC=1C=C(C=CC1N1CCN(CC1)CCN1CCNCC1)N1C(O[C@H](C1)CNC(C)=O)=O | C22H33FN6O3
